US08232312B2
{(3,5-dichloro-phenylsulphonyl)-[1-(pyridin-3-ylcarbamoyl)-2,3-dihydro-1H-indol-5-yl]-amino}-acetic acid
220 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate are dissolved in 10 ml dichloromethane. 166 mg potassium carbonate and 121 mg 3-pyridylisocyanate are added and the mixture is stirred overnight at ambient temperature. The reaction mixture is divided between water and dichloromethane. The aqueous phase is extracted twice with dichloromethane and the combined organic phases are dried on sodium sulphate. The solvent is eliminated in vacuo and the residue is taken up in 8 ml dichloromethane. 4 ml trifluoroacetic acid are added and the mixture is stirred for 2 hours at ambient temperature. The solvents are eliminated in vacuo and the residue is extracted from diisopropylether and petroleum ether. The solid is suction filtered and dried in vacuo.

reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate | 220 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CC(=O)OC(C)(C)C | C20H22Cl2N2O4S
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-pyridylisocyanate | 121 mg | N1=CC(=CC=C1)N=C=O | C6H4N2O
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | {(3,5-dichloro-phenylsulphonyl)-[1-(pyridin-3-ylcarbamoyl)-2,3-dihydro-1H-indol-5-yl]-amino}-acetic acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC=1C=NC=CC1)=O)CC(=O)O | C22H18Cl2N4O5S
